US04766133
25 g of 2,3-dimethyl-4-nitropyridine 1-oxide are dissolved in 1250 ml of n-propanol and the solution is stirred at 120° under argon for 16 days. The reaction mixture is concentrated, whereupon the residue is treated with methylene chloride-water and extracted. The organic phases are dried and concentrated. The residue is chromatographed on silica gel and purified with methylene chloride-methanol (20:1, 10:1), the medium pressure flash chromatography method being used and the pressure being produced with nitrogen gas. The 2,3-dimethyl-4-propoxypyridine 1-oxide obtained is processed directly.

reactant | 2,3-dimethyl-4-nitropyridine 1-oxide | 25 g | CC1=[N+](C=CC(=C1C)[N+](=O)[O-])[O-] | C7H8N2O3
reactant | n-propanol | 1250 ml | C(CC)O | C3H8O
product | 2,3-dimethyl-4-propoxypyridine 1-oxide | CC1=[N+](C=CC(=C1C)OCCC)[O-] | C10H15NO2
